US05464922
3.55 g of this diethyl hydroxyterephthalate was dissolved in 100 mL dimethylformamide and combined with 640 mg crushed sodium hydroxide. 4.03 g 4-bromo-1-butene dissolved in 20 mL dimethylformamide was added dropwise in while cooling on an ice bath. After stirring the reaction for 16 hours, purification by the usual methods gave 1.8 g diethyl 2-(3-butenyloxy)terephthalate.

reactant | diethyl hydroxyterephthalate | 3.55 g | OC1=C(C(=O)OCC)C=CC(=C1)C(=O)OCC | C12H14O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-bromo-1-butene | 4.03 g | BrCCC=C | C4H7Br
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | diethyl 2-(3-butenyloxy)terephthalate | 1.8 g | C(CC=C)OC1=C(C(=O)OCC)C=CC(=C1)C(=O)OCC | C16H20O5
